US04355112
phenylsarcosine
In addition the identity of neoviridogrisein IV with viridogrisein was further confirmed by IR, UV, NMR and mass spectrometry, thin layer chromatography, hydrolysate analysis and antimicrobial spectrometry. On the other hand, the griseoviridin preparation obtained in Example 5 was crystallized in warm methanol to yield needle crystals. Then a part of the needle crystals were compared and identified with an authentic preparation of griseoviridin by IR, UV, NMR and mass spectrometry, thin layer chromatography, elementary analysis and other physico-chemical properties.

reactant | neoviridogrisein IV | C[C@@H]1[C@@H](C(=O)N[C@@H](C(=O)N2C[C@@H](C[C@@H]2C(=O)N(CC(=O)N(C(C(=O)N[C@H](C(=O)N([C@H](C(=O)O1)C3=CC=CC=C3)C)C)[C@@H](C)C(C)C)C)C)O)CC(C)C)NC(=O)C4=C(C=CC=N4)O | C44H62N8O11
reactant | viridogrisein | CC1C(C(=O)NC(C(=O)N2CC(CC2C(=O)N(CC(=O)N(C(C(=O)NC(C(=O)N(C(C(=O)O1)C3=CC=CC=C3)C)C)C(C)C(C)C)C)C)O)CC(C)C)NC(=O)C4=C(C=CC=N4)O | C44H62N8O11
reactant | griseoviridin | C[C@@H]1C/C=C\2/C(=O)NC/C=C\C=C/[C@H](C[C@H](CC3=NC(=CO3)C(=O)N[C@H](CS2)C(=O)O1)O)O | C22H27N3O7S
product | phenylsarcosine | C1(=CC=CC=C1)N(C)CC(=O)O | C9H11NO2
